US08134001B2
In a manner similar to the method described in example 4a, 5-iodosalicylaldehyde (3 g, 12.1 mmol) (Aldrich) reacted with methanesulfonic acid tetrahydropyran-4-yl ester (4 g, 22 mmol) and K2CO3 in N,N-dimethylformamide to give 5-Iodo-2-(tetrahydro-pyran-4-yloxy)-benzaldehyde as a yellow solid (Yield 3.4 g, 85%).

reactant | 5-iodosalicylaldehyde | 12.1 mmol, 3 g | IC1=CC=C(C(C=O)=C1)O | C7H5IO2
reactant | methanesulfonic acid tetrahydropyran-4-yl ester | 22 mmol, 4 g | O1CCC(CC1)OS(=O)(=O)C | C6H12O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Iodo-2-(tetrahydro-pyran-4-yloxy)-benzaldehyde | Yield 3.4 g, 85% | IC=1C=CC(=C(C=O)C1)OC1CCOCC1 | C12H13IO3
